US07192471B2
1-Phenyl-3-[2-(4-oxo-4H-benzo[d][1,3]oxazin-2-yl)-phenyl]-urea by Reaction Method (A)
A 250 ml three-neck bottle was charged under room temperature with 12.8 g [0.05 mol] anthranoylanthranilic acid and 100 ml methylethylketone. Under stirring 5.95 g [0.05 mol] phenylisocyanate was added and heated for about 4 hours under reflux about 80° C.). After this the suspension was cooled down to about. 40° C. Then 40 ml acetanhydrid was added and then heated additionally for 3 hours. After cooling down to 10° C. the precipitate was sucked off, washed with acetone and dried at 50° C. under normal pressure.

reactant | anthranoylanthranilic acid | 0.05 mol, 12.8 g | C1=CC=C(C(=C1)C(=O)NC2=CC=CC=C2C(=O)O)N | C14H12N2O3
reactant | phenylisocyanate | 0.05 mol, 5.95 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | acetanhydrid | 40 ml | CC(=O)OC(=O)C | C4H6O3
solvent | methylethylketone | 100 ml | CC(=O)CC | C4H8O
product | 1-Phenyl-3-[2-(4-oxo-4H-benzo[d][1,3]oxazin-2-yl)-phenyl]-urea | C1(=CC=CC=C1)NC(=O)NC1=C(C=CC=C1)C=1OC(C2=C(N1)C=CC=C2)=O | C21H15N3O3
